US05126448
6-Chloro-1,2,3,4-tetrahydro-benzo[b]thieno[2,3-c]pyridine-3-carboxylic acid ethyl ester was synthesized by following the same procedure as the synthesis of 1,2,3,4-tetrahydro-benzo[b]thieno[2,3-c]pyridine-3-carboxylic acid ethyl ester in Example 1 except that 42.3 g of 5-chlorobenzothiophene was used in place of 33.6 g of benzothiophene in Example 1.

reactant | 1,2,3,4-tetrahydro-benzo[b]thieno[2,3-c]pyridine-3-carboxylic acid ethyl ester | C(C)OC(=O)C1CSC23C(=NCCC21)C=CC=C3 | C14H17NO2S
reactant | 5-chlorobenzothiophene | 42.3 g | ClC=1C=CC2=C(C=CS2)C1 | C8H5ClS
product | 6-Chloro-1,2,3,4-tetrahydro-benzo[b]thieno[2,3-c]pyridine-3-carboxylic acid ethyl ester | C(C)OC(=O)C1CSC23C(N(CCC21)Cl)C=CC=C3 | C14H18ClNO2S
